US07538931B2
Hak=1-Ethyl-2-(1,3-thiazol-4-yl)-1H-benzimidazole
5.0 g Thiabendazole and 1.31 g sodium hydroxide were added to 40 ml of tetrahydrofuran. The white slurry was stirred under nitrogen and 4.6 g of diethylsulfate was added dropwise. The mixture was stirred at 50 C for 16 hours. The mixture was quenched with 75 ml of water and then extracted with 75 ml or ethyl acetate. The organic layer was washed with 15 ml of water. Following solvent removal, an off-white solid crystallized. The solid was recrystallized from 30 ml (2:1, v/v) ethanol/water. The solid was dried under vacuum for 3 hrs at 50 C. 3.7 g of a white solid was obtained.

reactant | Thiabendazole | 5.0 g | C=1C=CC2=C(C1)NC(=N2)C3=CSC=N3 | C10H7N3S
reactant | sodium hydroxide | 1.31 g | [OH-].[Na+]
reactant | diethylsulfate | 4.6 g | C(C)OS(=O)(=O)OCC | C4H10O4S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-Ethyl-2-(1,3-thiazol-4-yl)-1H-benzimidazole | 3.7 g | C(C)N1C(=NC2=C1C=CC=C2)C=2N=CSC2 | C12H11N3S
